US05522842
Synthesis of random copolymer of 98.5/1.5 caprolactone-glycolide, Copolymer B
ε-Caprolactone (57.1 g, 0.5 mole), glycolide (1.1 g, 9.5 mole), glycolic acid (7.6 g, 0.1 mole) and stannous octoate (0.5 ml of 0.1M solution in toluene, 20 mg, 5×10-5 mole) were added to a glass reactor. The reactor was purged with dry nitrogen gas. The reactor was heated in an oil bath at 180° C. under nitrogen for 12 hours, while the contents were magnetically stirred. The final composition was determined by 1H NMR is shown to be essentially the same as the theoretical. The Tm is -62° C., and the Tg is 37° C.

reactant | ε-Caprolactone | 0.5 mole, 57.1 g | C1(CCCCCO1)=O | C6H10O2
reactant | glycolide | 9.5 mole, 1.1 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | glycolic acid | 0.1 mole, 7.6 g | C(CO)(=O)O | C2H4O3
reactant | stannous octoate | 5×10-5 mole, 0.1M, 0.5 ml, 20 mg | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | caprolactone glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
